US08404859B2
(S)-2-{[5-(3-Hydroxy-benzylcarbamoyl)-3-phenyl-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid
To a solution of (S)-2-{[5-(3-Hydroxy-benzylcarbamoyl)-3-phenyl-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester (40 mg, 0.07 mmol) in THF (2 mL) was added a solution of lithium hydroxide monohydrate (30 mg, 0.71 mmol) in water (3 mL). The mixture was then stirred at room temperature 4 h. The mixture was then acidified with 1N HCl and extracted with EtOAc (×3). The extracts were combined, washed with water and brine, dried over sodium sulfate, filtered, and evaporated to pure product, 20.9 mg (68%). MS m/e 549.1 (M+H+).

reactant | (S)-2-{[5-(3-Hydroxy-benzylcarbamoyl)-3-phenyl-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 0.07 mmol, 40 mg | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C=1SC(=CC1C1=CC=CC=C1)C(NCC1=CC(=CC=C1)O)=O)=O | C28H25N3O6S2
reactant | lithium hydroxide monohydrate | 0.71 mmol, 30 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (S)-2-{[5-(3-Hydroxy-benzylcarbamoyl)-3-phenyl-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid | OC=1C=C(CNC(=O)C2=CC(=C(S2)C(=O)N[C@H](C(=O)O)CNC(=O)C=2SC=CC2)C2=CC=CC=C2)C=CC1 | C27H23N3O6S2
